US07157204B2
2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane (36.63 g ) and 200 g of N-methyl-2-pyrrolidone (NMP) were sequentially charged into a 1 L round-bottom flask. The mixture was stirred until it was completely dissolved. While maintaining the flask at 0-5° C., 39.98 g of 2,2-bis(3,4-benzenedicarboxylic anhydride) perfluoropropane and 3.28 g of 5-norbornene-2,3-dicarboxylic anhydride (NDA) were added to the mixture. After the resulting mixture was stirred at room temperature for 16 hours, 40 g of toluene was added to the flask. Using a Dean-Stark distillation equipment, the reaction solution was refluxed at 170° C. for 3 hours to complete the reaction. The reaction solution thus prepared was allowed to cool to room temperature, and slowly poured into a 1:4 methanol-water mixture to obtain precipitates. The precipitates were filtered and dried in a vacuum drying oven at 40° C. for 24 hours to obtain 80 g of a soluble polyimide resin. Resin (20 g) thus obtained in powder form was charged into a 1 L round-bottom flask and dissolved in 100 g of N-methyl-2-pyrrolidone (NMP). The resulting solution was cooled on ice and then 2.73 g of triethylamine (TEA) was added thereto, with maintaining the temperature at 0˜5° C. After stirring for 10 minutes, 2.84 g of chloromethylethylether was slowly added to the solution. After the resulting solution was stirred for 3 hours while maintaining at low temperature, triethylammonium chloride salt was filtered off. The filtrate was slowly poured into a 1:2 methanol-distilled water mixture with vigorous stirring to form precipitates as a fine white solid. The precipitates thus formed were filtered and collected, washed with distilled water, and dried in a vacuum oven at 40° C. for 36 hours to prepare 20 g of a soluble polyimide represented by the following Formula, as a white powder:

reactant | 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane | 36.63 g | NC=1C=C(C=CC1O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)N | C15H12F6N2O2
reactant | N-methyl-2-pyrrolidone | 200 g | CN1C(CCC1)=O | C5H9NO
reactant | 5-norbornene-2,3-dicarboxylic anhydride | 3.28 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
reactant | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
reactant | methanol water | CO.O
product | polyimide resin | 80 g | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
